US04785015
According to the procedure of Kosugi et al, Chem. Letters 301 (1977) tetrakis-(triphenylphosphine) palladium [O] (60 mg) was added to a mixture of tributylallyltin (1.75 g, 0.0053 mol) and 8-bromo-1-ethyl-7-fluoro-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-1-acetic acid, methyl ester (1.6 g, 0.0043 mol) in benzene (4.0 mL) under N2. The sealed tube was then heated to 80° C. for 15 hours, more palladium catalyst was added (30 mg), and heating continued for 42 hours at 110°-120° C. The cooled reaction mixture was diluted with Et2O, then filtered through a glass wool plug. The ether was washed twice with brine, then dried (MgSO4) to yield an oil that was purified via flash chromatography. Using 1:7 EtOAc:hexane to afford 1.12 g, (~78%) of 1-ethyl-7-fluoro-1,3,4,9-tetrahydro-8-(2-propenyl)-pyrano[3,4-b]indole-1-acetic acid, methyl ester as a colorless oil. The oil was dissolved in ethanol (40 mL) and 1N sodium hydroxide added (15 mL). The mixture was heated to reflux for 2 hours then cooled and concentrated. 1N HCl was added and the aqueous solution extracted with ether. The ether layers were washed (brine), dried (MgSO4) and concentrated to yield a foamy oil. This was purified by flash chromatography on SiO2 -pretreated with 2% H3PO4 -MeOH. Using 1:2 EtOAc:hexane to give 1 g (73%) of 1-ethyl-7-fluoro-1,3,4,9-tetrahydro-8-(2-propenyl)-pyrano[3,4-b]indole-1-acetic acid as a colorless oil which crystallized from toluene:petroleum ether, m.p. 123°-125° C.

reactant | tributylallyltin | 0.0053 mol, 1.75 g | C(CCC)C(C=C(CCCC)CCCC)[Sn]
reactant | 8-bromo-1-ethyl-7-fluoro-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-1-acetic acid, methyl ester | 0.0043 mol, 1.6 g | BrC=1C(=CC=C2C3=C(NC12)C(OCC3)(CC(=O)OC)CC)F | C16H17BrFNO3
solvent | benzene | 4.0 mL | C1=CC=CC=C1 | C6H6
catalyst | palladium | [Pd] | Pd
solvent | Et2O | CCOCC | C4H10O
catalyst | tetrakis-(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-ethyl-7-fluoro-1,3,4,9-tetrahydro-8-(2-propenyl)-pyrano[3,4-b]indole-1-acetic acid, methyl ester | ~78% | C(C)C1(OCCC2=C1NC1=C(C(=CC=C21)F)CC=C)CC(=O)OC | C19H22FNO3
